US07432260B2
A mixture of [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine (0.12 g, 0.37 mmol), Boc-βAla-OH (0.18 g, 0.93 mmol), 1,3-diisopropylcarbodiimide (0.07 mL, 0.45 mmol) and 4-N,N-dimethylaminopyridine (36 mg, 0.3 mmol) in of dry DMF (2 mL) was stirred at room temperature for 24 h. The reaction mixture was poured into ice water and extracted with EtOAc. The organics were combined and washed with brine, filtered, and dried on MgSO4. The solvent was evaporated to give brown residue, which was purified by SiO2 chromatography (1:1 EtOAc/PE) to afford ({4-Methyl-5-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-thiazol-2-ylcarbamoyl}-methyl)-carbamic acid tert-butyl ester as light yellow solid. Anal. RP-HPLC: tR=19.5 min (0-60% MeCN in 0.1% aq CF3COOH over 20 min, 1 mL/min, purity>93%). 1H-NMR (DMSO-d6) δ: 1.11 (s, 9H, CH3), 2.54 (s, 3H, CH3), 3.62 (m, 2H, CH2), 5.38 (m, 2H, CH2), 7.06 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 7.46 (m, 1H, Ph-H), 7.72 (m, 1H, Ph-H), 8.15 (m, 1H, Ph-H), 8.45 (d, 1H, J=5.2 Hz, pyrimidinyl-H), 8.77 (s, 1H, NH). A solution of this material (97 mg, 0.19 mmol) in dioxane (5 mL) was treated with CF3COOH (1 ml). After stirring at room temperature for 22 h, the reaction mixture was evaporated and purified by preparative RP-HPLC (0-60% MeCN in 0.1% aq CF3COOH over 40 min, 9 mL/min) to afford the titled compound (34 mg) as a light yellow solid. Anal. RP-HPLC: tR=14.0 min (0-60% MeCN in 0.1% aq CF3COOH over 20 min, 1 mL/min, purity>93%). 1H-NMR (CD3OD) δ: 2.64 (s, 3H, CH3), 3.30 (m, 2H, CH2), 3.33 (m, 2H, CH2), 7.14 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 7.52 (t, 1H, J=8.2 Hz, Ph-H), 7.63 (m, 1H, Ph-H), 7.96 (m, 1H, Ph-H), 8.46 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 8.88 (s, 1H, NH). MS (ESi+) m/z 400.6 (C17H17N7O3S requires 399.4).

reactant | [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine | 0.37 mmol, 0.12 g | NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C14H12N6O2S
reactant | Boc-βAla-OH | 0.93 mmol, 0.18 g | N(CCC(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | 1,3-diisopropylcarbodiimide | 0.45 mmol, 0.07 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | ({4-Methyl-5-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-thiazol-2-ylcarbamoyl}-methyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C21H23N7O5S
